US07279497B2
Preparation of (2S,3S,4R)-3,4-dihydro-2-dimethoxymethyl-3-hydroxy-2-methyl-6-nitro-4-[N-(4-methoxyphenyl)-N-(1H-imidazol-2-ylmethyl)amino]-2H-1-benzopyran
The title compound (280 mg, 28%) was prepared using (2S,3S,4S)-3,4-dihydro-2-dimethoxymethyl-3,4-epoxy-2-methyl-6-nitro-2H-1-benzopyran (591 mg, 2.10 mmol) and 4-methoxyphenyl-1H-imidazol-2-ylmethylamine (427 mg, 2.10 mmol), according to the same procedure used for the preparation of example 1 above.

reactant | (2S,3S,4S)-3,4-dihydro-2-dimethoxymethyl-3,4-epoxy-2-methyl-6-nitro-2H-1-benzopyran | 2.10 mmol, 591 mg | COC([C@]1(OC2=C([C@H]3[C@@H]1O3)C=C(C=C2)[N+](=O)[O-])C)OC | C13H15NO6
reactant | 4-methoxyphenyl-1H-imidazol-2-ylmethylamine | 2.10 mmol, 427 mg | COC1=CC=C(C=C1)NCC=1NC=CN1 | C11H13N3O
product | (2S,3S,4R)-3,4-dihydro-2-dimethoxymethyl-3-hydroxy-2-methyl-6-nitro-4-[N-(4-methoxyphenyl)-N-(1H-imidazol-2-ylmethyl)amino]-2H-1-benzopyran | 280 mg, 28% | COC([C@]1(OC2=C([C@H]([C@@H]1O)N(CC=1NC=CN1)C1=CC=C(C=C1)OC)C=C(C=C2)[N+](=O)[O-])C)OC | C24H28N4O7
